US04088771
This example illustrates the process of the invention wherein 1-(mono)-alkoxycarbonyl-S-methylisothiourea is used in place of a mixture of the mono- and bis-alkoxycarbonyl-reagents. In this example, a solution containing 2.1 g. of β-methylamino-β-phenylethylamine dihydrochloride, 1.64 g. of sodium acetate and 2.4 g. of 1-methoxycarbonyl-S-methylisothiourea in 20 ml. of 50%, wt., aqueous methanol is gently refluxed for two hours. The resulting heavy slurry is cooled, filtered and the collected solid product then washed with methanol affording 1-methyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazole.

reactant | β-methylamino-β-phenylethylamine dihydrochloride | Cl.Cl.CNC(CN)C1=CC=CC=C1
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 1-methoxycarbonyl-S-methylisothiourea | COC(=O)NC(SC)=N | C4H8N2O2S
solvent | methanol | CO | CH4O
product | 1-methyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazole | CN1C(=NCC1C1=CC=CC=C1)NC(=O)OC | C12H15N3O2
